US07148226B2
6-Cyclopentyl-6-[2-(4-hydroxy-3-isopropyl-phenyl)-ethyl]-dihydro-pyran-2,4-dione
The title compound was prepared analogously to Example A(22) where Acetic acid 4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-isopropyl-phenyl ester (Example A(94)) was substituted in place of acetic acid 4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-ethyl-phenyl ester.

reactant | Acetic acid 4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-isopropyl-phenyl ester | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)OC(C)=O)C(C)C | C23H30O5
reactant | acetic acid 4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-ethyl-phenyl ester | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)OC(C)=O)CC | C22H28O5
product | 6-Cyclopentyl-6-[2-(4-hydroxy-3-isopropyl-phenyl)-ethyl]-dihydro-pyran-2,4-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C=C1)O)C(C)C | C21H28O4
